US06166064
Benzene-1,3-disulfonic acid tert-butyl-amide methylamide
5 ml of a 33% solution of methylamine in ethanol was added to a solution of 1.8 grams (7 mmole) of 3-tert-butylsulfamoyl-benzenesulfonyl chloride in ethyl acetate. The mixture was stirred for 2 hours. The ethyl acetate layer was separated and concentrated in vacuo. The residue was purified on silica gel eluting 5% methanol in diochloromethane to give 1.32 grams of the titled compound as a white solid.

reactant | methylamine | CN | CH5N
reactant | 3-tert-butylsulfamoyl-benzenesulfonyl chloride | 7 mmole, 1.8 grams | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C10H14ClNO4S2
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzene-1,3-disulfonic acid tert-butyl-amide methylamide | 1.32 grams | CNS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C)(C)C | C11H18N2O4S2
